US06777417B2
Synthesis of [4-(3-{2-[5-ethanesulfonyl-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-4,5,6,7-tetrahydro-1H-indol-3-yl}-propyl)-piperazin-1-yl]-acetic acid
{(4-[3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazin-1-yl}-acetic acid (50 mg, 0.15 mmol), prepared as described in Example 18, was condensed with 5-ethylsulfonyloxindole (66 mg, 60% pure) following the same procedure used in example 1. The formed solid was purified by flash chromatography, eluting with (dichloromethane: methanol 8:1, 5:1:0.01 acetic acid) to give 25 mg of the desired product.

reactant | (4-[3-(2-Formyl-4,5,6,7-tetrahydro-1H-indol-3-yl)-propyl]-piperazin-1-yl}-acetic acid | 0.15 mmol, 50 mg | C(=O)C=1NC=2CCCCC2C1CCCN1CCN(CC1)CC(=O)O | C18H27N3O3
reactant | 5-ethylsulfonyloxindole | 66 mg | C(C)S(=O)(=O)C=1C=C2CC(NC2=CC1)=O | C10H11NO3S
product | [4-(3-{2-[5-ethanesulfonyl-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-4,5,6,7-tetrahydro-1H-indol-3-yl}-propyl)-piperazin-1-yl]-acetic acid | 25 mg | C(C)S(=O)(=O)C=1C=C2/C(/C(NC2=CC1)=O)=C/C=1NC=2CCCCC2C1CCCN1CCN(CC1)CC(=O)O | C28H36N4O5S
